### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Span/Defs): span (s \ {0}) is equal to span s

### PR DESCRIPTION
**Pull request by Hagb**
`simp` would be able to solve `Submodule.span (s \ {0}) = Submodule.span s`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Span/Defs.lean [hunk 1]
```diff
@@ -95,6 +95,12 @@ theorem span_insert_zero : span R (insert (0 : M) s) = span R s := by
   rw [span_le, Set.insert_subset_iff]
   exact ⟨by simp only [SetLike.mem_coe, Submodule.zero_mem], Submodule.subset_span⟩
 
+@[simp]
+lemma span_sdiff_singleton_zero : span R (s \ {0}) = span R s := by
+  by_cases h : 0 ∈ s
+  · rw [←span_insert_zero, (by simp [h] : insert 0 (s \ {0}) = s)]
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Span/Defs.lean:101]:
```suggestion
  · rw [←span_insert_zero, show insert 0 (s \ {0}) = s by simp [h]]
```

Comment (Hagb) [reply Mathlib/LinearAlgebra/Span/Defs.lean:101]: Thanks!

**Comment by erdOne** [comment]
Thanks for the ping 
maintainer merge

File: Mathlib/LinearAlgebra/Span/Defs.lean [hunk 2]
```diff
@@ -95,6 +95,12 @@ theorem span_insert_zero : span R (insert (0 : M) s) = span R s := by
   rw [span_le, Set.insert_subset_iff]
   exact ⟨by simp only [SetLike.mem_coe, Submodule.zero_mem], Submodule.subset_span⟩
 
+@[simp]
+lemma span_sdiff_singleton_zero : span R (s \ {0}) = span R s := by
+  by_cases h : 0 ∈ s
+  · rw [←span_insert_zero, show insert 0 (s \ {0}) = s by simp [h]]
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Span/Defs.lean:101]:
```suggestion
  · rw [← span_insert_zero, show insert 0 (s \ {0}) = s by simp [h]]
```

**Review by b-mehta — COMMENTED** [review]
The bot should have picked up on this change!

bors d+

File: Mathlib/LinearAlgebra/Span/Defs.lean (hunk 2 above)
Comment (Hagb) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: Thank you
